US06624158B2
4-[(3aR,4R,6R,6aR)-6-Methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-2H-1,2,3-triazole
A solution of (3aR,4R,6R,6aR)-4-ethynyl-6-methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxole (Helv. Chim. Acta, 1980, 63(5), 1181) (0.55 g, 2.8 mmol), in trimethylsilylazide (5 ml) was heated at 120 □C. in a teflon lined bomb for 12 hours. The reaction mixture was allowed to cool to room temperature and the solvent was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a gradient system of dichloromethane gradually changing to dichloromethane:methanol (98:2 by volume) to give the title compound as a pale brown oil which solidified on standing (0.36 g).

reactant | (3aR,4R,6R,6aR)-4-ethynyl-6-methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxole | 2.8 mmol, 0.55 g | C(#C)[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)OC | C10H14O4
reactant | trimethylsilylazide | 5 ml | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
product | 4-[(3aR,4R,6R,6aR)-6-Methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-2H-1,2,3-triazole | CO[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C2=NNN=C2 | C10H15N3O4
